US04522948
2-(Cyclohexylmethyl)hexyl methanesulfonate (2.0 g) in a few ml of dimethylformamide (DMF) was added to a cooled stirred suspension of anhydrous sodium cyanide (0.53 g) in 5 ml of dry DMF. The mixture was heated overnight at 80° C., poured into water (100 ml) and the product extracted with ether. The combined extracts were washed with water, dried (MgSO4) and evaporated to give 3-(cyclohexylmethyl)heptanenitrile, used directly in the next step.

reactant | 2-(Cyclohexylmethyl)hexyl methanesulfonate | 2.0 g | CS(=O)(=O)OCC(CCCC)CC1CCCCC1 | C14H28O3S
reactant | sodium cyanide | 0.53 g | [C-]#N.[Na+]
reactant | water | 100 ml | O | H2O
solvent | DMF | 5 ml | CN(C=O)C | C3H7NO
product | 3-(cyclohexylmethyl)heptanenitrile | C1(CCCCC1)CC(CC#N)CCCC | C14H25N
